US07511067B2
d) 4-[2-(1,1-dimethyl-3-[1,2,4]triazol-4-yl-propylamino)-1-hydroxy-ethyl]-2-hydroxymethyl-phenol
5 g of 1-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(1,1-dimethyl-3-[1,2,4]triazol-4-yl-propylamino)-ethanol acetate are hydrogenated with 0.5 g of palladium on charcoal (5%) in 100 mL methanol. After the theoretically calculated amount of hydrogen has been taken up the catalyst is filtered off and the filtrate is evaporated down. The residue is dissolved in 10 mL ethanol and seeded. Then the product that crystallises out is suction filtered and washed. Yield: 3.2 g (74%, acetate); m.p.=125-127° C.

reactant | 1-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(1,1-dimethyl-3-[1,2,4]triazol-4-yl-propylamino)-ethanol acetate | 5 g | C(C)(=O)OC(CNC(CCN1C=NN=C1)(C)C)C1=CC(=C(C=C1)OCC1=CC=CC=C1)CO | C25H32N4O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | 4-[2-(1,1-dimethyl-3-[1,2,4]triazol-4-yl-propylamino)-1-hydroxy-ethyl]-2-hydroxymethyl-phenol | CC(CCN1C=NN=C1)(C)NCC(O)C1=CC(=C(C=C1)O)CO | C16H24N4O3
